US09120089B2
Activated silica gel of step (1) and tetrahydrofuran are stirred at ambient temperature, then 70 ml of propylene glycol is added (adding 0.2 ml of propylene glycol per gram of silica gel) at ambient temperature, after stirring 1 hour the temperature is raised to 40° C., then mixture of silica gel HHV-4/propylene glycol/THF is obtained;

reactant | propylene glycol | 70 ml | C(C(C)O)O | C3H8O2
reactant | propylene glycol | 0.2 ml | C(C(C)O)O | C3H8O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | propylene glycol THF | C(C(C)O)O.C1CCOC1 | InChI=1S/C4H8O.C3H8O2/c1-2-4-5-3-1;1-3(5)2-4/h1-4H2;3-5H,2H2,1H3
